### PR TITLE
add Erdős 1199

### PR DESCRIPTION
**Pull request by YunusM235**

### CODE REVIEW

File: FormalConjectures/ErdosProblems/1199.lean [hunk 1]
```diff
@@ -0,0 +1,50 @@
...
+
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Erdős Problem 1199
+
+*Reference:*
+- [erdosproblems.com/1199](https://www.erdosproblems.com/1199)
+- [Hi79] Hindman, Neil, Partitions and sums of integers with repetition.
+  J. Combin. Theory Ser. A (1979), 19--32.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1199.lean:25]:
```suggestion
- [Hi79] Hindman, Neil, Partitions and sums of integers with repetition.
  J. Combin. Theory Ser. A (1979), 19--32.
- [Ow74] J. Owings, E2494. Amer. Math. Monthly (1974), 902. 
```

File: FormalConjectures/ErdosProblems/1199.lean [hunk 2]
```diff
@@ -0,0 +1,50 @@
...
+-/
+
+open Pointwise
+
+namespace Erdos1199
+
+/--
+Is it true that in any 2-colouring of ℕ there exists an infinite set $A$
+such that all elements of $A+A$ are the same colour?
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1199.lean:35]:
```suggestion
such that all elements of $A+A$ are the same colour?

A conjecture of Owings [Ow74].
```

File: FormalConjectures/ErdosProblems/1199.lean [hunk 3]
```diff
@@ -0,0 +1,50 @@
...
+- [Hi79] Hindman, Neil, Partitions and sums of integers with repetition.
+  J. Combin. Theory Ser. A (1979), 19--32.
+-/
+
+open Pointwise
+
+namespace Erdos1199
+
+/--
+Is it true that in any 2-colouring of ℕ there exists an infinite set $A$
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1199.lean]:
```suggestion
Is it true that in any 2-colouring of $\mathbb{N}$ there exists an infinite set $A$
```

File: FormalConjectures/ErdosProblems/1199.lean [hunk 4]
```diff
@@ -0,0 +1,50 @@
...
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Erdős Problem 1199
+
+*Reference:*
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1199.lean]:
```suggestion
*References:*
```

**Review by mo271 — APPROVED** [review]
Thanks, LGTM just an added reference and some nits

File: FormalConjectures/ErdosProblems/1199.lean [hunk 5]
```diff
@@ -0,0 +1,50 @@
...
+
+/--
+Is it true that in any 2-colouring of ℕ there exists an infinite set $A$
+such that all elements of $A+A$ are the same colour?
+-/
+@[category research open, AMS 5]
+theorem erdos_1199 :
+    answer(sorry) ↔
+    ∀ (color : ℕ → Fin 2), ∃ (A : Set ℕ),
+    A.Infinite ∧ ∀ n ∈ (A+A), ∀ m ∈ (A+A), color n = color m := by sorry
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1199.lean]:
```suggestion
    A.Infinite ∧ ∀ n ∈ (A+A), ∀ m ∈ (A+A), color n = color m := by 
  sorry
```

File: FormalConjectures/ErdosProblems/1199.lean [hunk 6]
```diff
@@ -0,0 +1,50 @@
...
+
+/--
+Hindman [Hi79] has shown that this is false for 3-colourings.
+-/
+@[category research solved, AMS 5]
+theorem erdos_1199.variants.three :
+    ∃ (color : ℕ → Fin 3), ∀ (A : Set ℕ),
+    A.Infinite → ∃ n ∈ (A+A), ∃ m ∈ (A+A), color n ≠ color m := by sorry
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1199.lean]:
```suggestion
    A.Infinite → ∃ n ∈ (A+A), ∃ m ∈ (A+A), color n ≠ color m := by 
  sorry
```
